US06465548B1
Production Example of 2,2,5,7,8-pentamethyl-6-hydroxychroman
In a 50 ml four-necked flask were charged 2,3,5-trimethylhydroquinone (5.0 g), zinc chloride (0.8 g), acetic acid (0.35 ml), methyl ethyl ketone (4 ml) and toluene (15 ml) and the mixture was heated. At 100° C., a solution of isoprene (2.5 g) in toluene (5 ml) was added dropwise under reflux over 2 hr. After the dropwise addition, the mixture was refluxed for 4 more hours and cooled to room temperature. The reaction mixture was transferred to a partition funnel, and, after washing 3 times with 50 ml of water, the solvent was evaporated to give 6.5 g of an oily substance.

reactant | 2,3,5-trimethylhydroquinone | 5.0 g | CC1=C(O)C=C(C(=C1C)O)C | C9H12O2
reactant | acetic acid | 0.35 ml | C(C)(=O)O | C2H4O2
reactant | methyl ethyl ketone | 4 ml | C(C)C(=O)C | C4H8O
reactant | isoprene | 2.5 g | C=CC(C)=C | C5H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | zinc chloride | 0.8 g | [Cl-].[Zn+2].[Cl-]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 2,2,5,7,8-pentamethyl-6-hydroxychroman | CC1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C | C14H20O2
